US09382228B2
A solution of 3,3-dimethylcyclobutane carboxylic acid (0.5 g, 3.90 mmol) and oxalyl chloride (0.512 mL, 5.85 mmol) in DCM (10 mL) was treated with DMF (1 drop) and stirred at RT for 2 h. The mixture was concentrated to dryness, treated with DCM (5 mL) and concentrated to dryness a second time. The crude acid chloride was dissolved in THF (5 mL), added drop-wise to a solution of NH4OH (˜15M, 3.80 mL, ˜57 mmol) in THF (5 mL), stirred for 30 min, diluted with brine and extracted with EtOAc (3×). The combined organics were dried over MgSO4 and evaporated to afford 3,3-dimethylcyclobutanecarboxamide (448 mg, 90%). 1H NMR (400 MHz, DMSO-d6): δ 7.07 (s, 1H), 6.64 (s, 1H), 2.86 (m, 1H), 1.86 (m, 2H), 1.75 (m, 2H), 1.10 (s, 3H), 1.00 (s, 3H).

reactant | 3,3-dimethylcyclobutane carboxylic acid | 3.90 mmol, 0.5 g | CC1(CC(C1)C(=O)O)C | C7H12O2
reactant | oxalyl chloride | 5.85 mmol, 0.512 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | ˜57 mmol, ˜15M, 3.80 mL | [NH4+].[OH-]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 3,3-dimethylcyclobutanecarboxamide | 448 mg, 90% | CC1(CC(C1)C(=O)N)C | C7H13NO
